US07294625B2
28-1) 4-{2-[(t-Butoxycarbonyl)(2,2,2-trifluoroethyl)amino]-pyridin-4-yl}-1-(6-chloropyridazin-3-yl)-3-(4-fluorophenyl)-1H-pyrazole
The reaction was carried out in the same manner as in Example 3-1) except for using 5.60 g (12.0 mmol) of 4-(2-t-butoxycarbonylaminopyridin-4-yl)-1-(6-chloropyridazin-3-yl)-3-(4-fluorophenyl)-1H-pyrazole obtained by the same reaction as in Example 2-3), and using 4.18 g (18.0 mmol) of 2,2,2-trifluoroethyl triflate in place of methyl iodide to obtain 3.45 g of the title compound as a pale grayish white powder. (Yield: 52%)

reactant | 4-(2-t-butoxycarbonylaminopyridin-4-yl)-1-(6-chloropyridazin-3-yl)-3-(4-fluorophenyl)-1H-pyrazole | 12.0 mmol, 5.60 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)C=1C(=NN(C1)C=1N=NC(=CC1)Cl)C1=CC=C(C=C1)F | C23H20ClFN6O2
reactant | 2,2,2-trifluoroethyl triflate | 18.0 mmol, 4.18 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
product | 4-{2-[(t-Butoxycarbonyl)(2,2,2-trifluoroethyl)amino]-pyridin-4-yl}-1-(6-chloropyridazin-3-yl)-3-(4-fluorophenyl)-1H-pyrazole | 3.45 g, Yield: 52% | C(C)(C)(C)OC(=O)N(C1=NC=CC(=C1)C=1C(=NN(C1)C=1N=NC(=CC1)Cl)C1=CC=C(C=C1)F)CC(F)(F)F | C25H21ClF4N6O2
